US05378689
3-[2(R)-Benzyl-3-(N-benzyl-N-methylaminocarbonyl)propionyl]-4(S)-isopropyl-2-oxazolidinone
A solution of 1.03 g (2.52 mmole) of 3-[2(R)-benzyl-3-(benzyloxycarbonyl)propionyl]-4(S)-isopropyl-2-oxazolidinone (prepared as described in Preparation 13) in 20 ml of ethanol was stirred at room temperature for 4 hours under an atmosphere of hydrogen and in the presence of 100 mg of 10% w/w palladium-on-charcoal. The catalyst was then removed by filtration, and the filtrate was concentrated by distillation under reduced pressure. The residue was dissolved in 50 ml of anhydrous tetrahydrofuran, and 0.39 ml (3.02 mmole) of N-benzyl-N-methylamine, 0.46 ml of 95% diethyl cyanophosphonate and 0.42 ml of triethylamine were added, in that order, to the solution, whilst ice-cooling and under an atmosphere of nitrogen, after which the mixture was stirred for 6 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was purified by medium pressure column chromatography through silica gel using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent), followed by recrystallization from diisopropyl ether, to afford 1.04 g (yield 98%) of the title compound as white crystals, melting at 60°-62° C.

reactant | 3-[2(R)-benzyl-3-(benzyloxycarbonyl)propionyl]-4(S)-isopropyl-2-oxazolidinone | 2.52 mmole, 1.03 g | C(C1=CC=CC=C1)[C@@H](C(=O)N1C(OC[C@@H]1C(C)C)=O)CC(=O)OCC1=CC=CC=C1 | C24H27NO5
reactant | N-benzyl-N-methylamine | 3.02 mmole, 0.39 ml | C(C1=CC=CC=C1)NC | C8H11N
reactant | diethyl cyanophosphonate | 0.46 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3-[2(R)-Benzyl-3-(N-benzyl-N-methylaminocarbonyl)propionyl]-4(S)-isopropyl-2-oxazolidinone | 1.04 g, yield 98% | C(C1=CC=CC=C1)[C@@H](C(=O)N1C(OC[C@@H]1C(C)C)=O)CC(=O)N(C)CC1=CC=CC=C1 | C25H30N2O4
